US05324725
63 g of aluminum trichloride were suspended in 150 ml of chloroform at a temperature of 10° C. A mixture of ethyl 5,6-dihydro-2-methyl-4H-pyrrolo[3,2,1-ij]quinoline-1-acetate and 26.3 g of isobutyryl chloride in 150 ml of chloroform was added to the suspension while the temperature was maintained at 10° C. The reaction mixture was stirred at room temperature for hour, then heated under reflux for 4 hours and kept at room temperature for a further 12 hours. A further 10 g of aluminum chloride were then added, and the mixture was heated under reflux for a further hour. The reaction mixture was worked up by pouring it onto ice and then extracting with dichloromethane. The organic phase was washed with dilute aqueous sodium hydroxide solution, then washed with water until neutral, dried and concentrated. 80 g of crude product were obtained, which was purified by chromatography on a silica gel column using dichloromethane as the eluent. 42.5 g of ethyl 5,6-dihydro-8-(2-methyl-1-oxopropyl)-2-methyl-4H-pyrrolo[3,2,1-ij]quinoline-1-acetate were obtained.

reactant | aluminum trichloride | 63 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | ethyl 5,6-dihydro-2-methyl-4H-pyrrolo[3,2,1-ij]quinoline-1-acetate | CC1=C(C=2C=CC=C3CCCN1C23)CC(=O)OCC | C16H19NO2
reactant | isobutyryl chloride | 26.3 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | aluminum chloride | 10 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 5,6-dihydro-8-(2-methyl-1-oxopropyl)-2-methyl-4H-pyrrolo[3,2,1-ij]quinoline-1-acetate | 42.5 g | CC(C(=O)C=1C=C2CCCN3C2=C(C1)C(=C3C)CC(=O)OCC)C | C20H25NO3
